US08067445B2
Step 3: (2′-{[(3,5-Dichloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid
(2′-{[(3,5-Dichloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester (0.088 g, 0.15 mmol) in THF (1 mL) and MeOH (0.8 mL) was hydrolyzed with 1N aqueous NaOH (0.5 mL) for 2.5 hours. The mixture was acidified with 1N aqueous HCl and extracted with CH2Cl2. The combined organic layers were dried over Na2SO4, decanted, and concentrated, and the residue was purified by preparative HPLC to give the title compound. M+H is 571.

reactant | (2′-{[(3,5-Dichloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid methyl ester | 0.15 mmol, 0.088 g | COC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)OCC1=CC(=CC(=C1)Cl)Cl)=O | C28H26Cl2F3NO5
reactant | NaOH | 1N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.8 mL | CO | CH4O
product | (2′-{[(3,5-Dichloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid | ClC=1C=C(COC(=O)N(CC)CC2=C(C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2OC)CC(=O)O)C=C(C1)Cl | C27H24Cl2F3NO5
